US04186135
82 g of dextrorotatory 1-ethyl-2-aminomethylpyrrolidine, 600 ccm of chloroform and, gradually, at a temperature of from 5°-10° C., 200 g of 7-methylsulfamoyl-1,4-benzodioxane-5-carbonyl chloride were introduced into a balloon flask with an agitator and a thermometer. After the addition of a liter of water chloroform was distilled and then the remaining solution was filtered. The base was precipitated by the addition of 60 cm3 of 20% ammonia. The crystals formed were dried off, washed with water and then dried. 162 g of dextrorotatory N-(1-ethyl-2-pyrrolidylmethyl)-7-methylsulfamoyl-1,4-benzodioxane-5-carboxamide was produced (M.P.: 136°-137° C.; yield: 66%).

reactant | 1-ethyl-2-aminomethylpyrrolidine | 82 g | C(C)N1C(CCC1)CN | C7H16N2
reactant | chloroform | 600 ccm | C(Cl)(Cl)Cl | CHCl3
reactant | 7-methylsulfamoyl-1,4-benzodioxane-5-carbonyl chloride | 200 g | CNS(=O)(=O)C=1C=C(C2=C(OCCO2)C1)C(=O)Cl | C10H10ClNO5S
solvent | water chloroform | a liter | C(Cl)(Cl)Cl.O
product | N-(1-ethyl-2-pyrrolidylmethyl)-7-methylsulfamoyl-1,4-benzodioxane-5-carboxamide | 162 g, yield: 66% | C(C)N1C(CCC1)CNC(=O)C1=CC(=CC=2OCCOC21)S(NC)(=O)=O | C17H25N3O5S
